US07087599B2
A solution of 2-butyl-4-chloro-5-methoxy-2-(3-oxo-pentyl)-1-indanone (250 mg, 0.74 mmol) in acetic acid (2 mL) was diluted with 6N aqueous HCl (2 mL). The resulting mixture was stirred and heated in an oil bath at 90° C. for 18 hours, then kept at room temperature for 2 days. The mixture was diluted with EtOAc (20 mL), washed with water (30 mL), 5% NaHCO3 (10 mL) and brine (5 mL), dried over MgSO4, filtered, and evaporated under vacuum to an oil (250 mg). The crude product was purified by preparative layer chromatography on three 0.1×20×20 silica gel GF plates, developing with 5% EtOAc in CH2Cl2, to afford 9a-butyl-8-chloro-7-methoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (143 mg).

reactant | 2-butyl-4-chloro-5-methoxy-2-(3-oxo-pentyl)-1-indanone | 0.74 mmol, 250 mg | C(CCC)C1(C(C2=CC=C(C(=C2C1)Cl)OC)=O)CCC(CC)=O | C19H25ClO3
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | HCl | 6N, 2 mL | Cl | ClH
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 9a-butyl-8-chloro-7-methoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 143 mg | C(CCC)C12CC3=C(C(=CC=C3C2=C(C(CC1)=O)C)OC)Cl | C19H23ClO2
